US07589232B2
Step b) Formation of 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoic acid
The titled compound was prepared following the procedure F using methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoate and NaOH 1M as a brown oil (95%). 1HNMR (CDCl3, 300 MHz) δ 8.14-8.01 (m, 2H), 7.56-7.40 (m, 4H), 7.34-7.22 (m, 2H), 7.21-7.07 (m, 4H), 4.69-4.58 (m, 2H), 4.54-4.43 (m, 2H), 2.62 (m, 2H), 2.48-2.33 (m, 2H), 1.80-1.53 (m, 4H), 1.43-1.15 (m, 6H), 0.97-0.78 (m, 6H). M− (ESI): 494.4; M+ (ESI): 496.4. HPLC, Rt: 5.54 min (Purity: 98%).

reactant | methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C34H39NO3
reactant | NaOH | 1M | [OH-].[Na+]
product | 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC=C(C(=O)O)C=C2)C=C1 | C33H37NO3
